US07071182B2
2-[4-(benzyloxy)phenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]acetamide
A mixture of 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine (60 mg, 0.26 mmol), (4-benzyloxy-phenyl)-acetic acid (63 mg, 0.26 mmol), ethyldimethylpropylcarbodiimide hydrochloride (60 mg g, 0.31 mmol), N-hydroxybenzotriazole (42 mg, 0.31 mmol), and N-methyl morpholine (66 mg, 0.62 mmol) in 2 mL of DMF was shaken for 6 hours. The mixture was concentrated under reduced pressure and the residue was dissolved in 1.5 mL of a 1:1 mixture of dimethyl sulfoxide/methanol and purified by preparative reverse-phase HPLC. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.61 (m, 4H), 2.43 (m, 4H), 2.86 (t, 2H, J=6.78), 3.56 (s, 2H), 4.45 (t, 2H, J=6.78), 5.08 (s, 2H), 6.97 (m, 2H), 7.25–7.31 (m, 6H), 7.27 (m, 2H), 7.59 (m, 1H), 7.97 (s, 1H), 8.08 (s, 1H), 10.10 (s, 1H); MS (DCI/NH3) m/z 455 [M+H]+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | 0.26 mmol, 60 mg | N1(CCCC1)CCN1N=CC2=CC(=CC=C12)N | C13H18N4
reactant | (4-benzyloxy-phenyl)-acetic acid | 0.26 mmol, 63 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 0.31 mmol, 60 mg | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 0.31 mmol, 42 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 0.62 mmol, 66 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[4-(benzyloxy)phenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C28H30N4O2
